US07737166B2
2-tert-Butyl-4-[(3S)-3-(dimethylamino)pyrrolidin-1-yl]-6-methyl-6-phenyl-1,3-benzoxazole-7-carbonitrile (#117)
2-tert-Butyl-4-fluoro-6-methyl-5-phenyl-1,3-benzoxazole-7-carbonitrile (I-239) (105 mg, 0.34 mmol) was dissolved in dimethyl sulfoxide (2 ml), and at room temperature, triethylamine (95 μl, 0.68 mmol) and (3S)-3-(dimethylamino)pyrrolidine (65 μl, 0.51 mmol) were added. The solution was stirred under nitrogen atmosphere at 90° C. for 6 hours. After cooling to room temperature, the reaction liquid was fractionated with ethyl acetate and an aqueous saturated sodium hydrogencarbonate solution. The aqueous layer was further extracted with ethyl acetate. The organic layers were combined, washed with saturated brine, then dried over anhydrous sodium sulfate. The insoluble matter was separated by filtration, then the solvent was evaporated away, and the resulting residue was purified by middle-pressure liquid chromatography (eluent, chloroform:methanol=98:2) to obtain the entitled compound (119 mg, 87%) as a pale yellow solid.

reactant | 2-tert-Butyl-4-fluoro-6-methyl-5-phenyl-1,3-benzoxazole-7-carbonitrile | C(C)(C)(C)C=1OC2=C(N1)C(=C(C(=C2C#N)C)C2=CC=CC=C2)F | C19H17FN2O
reactant | triethylamine | 0.68 mmol, 95 μl | C(C)N(CC)CC | C6H15N
reactant | (3S)-3-(dimethylamino)pyrrolidine | 0.51 mmol, 65 μl | CN([C@@H]1CNCC1)C | C6H14N2
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | dimethyl sulfoxide | 2 ml | CS(=O)C | C2H6OS
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-tert-Butyl-4-[(3S)-3-(dimethylamino)pyrrolidin-1-yl]-6-methyl-6-phenyl-1,3-benzoxazole-7-carbonitrile | 119 mg, 87% | C(C)(C)(C)C1OC=2C(=N1)C(=CC(C2C#N)(C2=CC=CC=C2)C)N2C[C@H](CC2)N(C)C | C25H32N4O
